US09216980B2
Step 2: 6-Bromo-3-[4-(4-methoxypiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 6-bromo-3-iodo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (0.50 g, 1.3 mmol), 4-methoxy-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine (0.80 g, 2.4 mmol) and 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.16 g, 0.2 mmol) in 2-methyl THF (20 mL) and saturated aqueous sodium carbonate (10 mL) was heated at 85° C. for 3 h. The material was partitioned between DCM, water and methanol and the phases were separated. The organic phase was separated, dried over sodium sulfate, filtered and evaporated to afford a residue which was purified by flash chromatography (silica, 50 g column, Biotage, 0-10% methanol in DCM). The resultant material was triturated with methanol to afford the title compound as a tan solid (0.165 g, 28%). 1H NMR (CDCl3 plus CD3OD, 300 MHz): 8.84 (d, J=2.2 Hz, 1H), 8.73 (d, J=2.2 Hz, 1H), 8.69 (d, J=0.9 Hz, 1H), 8.30 (d, J=1.0 Hz, 1H), 7.68 (d, J=8.0 Hz, 2H), 7.49 (d, J=8.0 Hz, 2H), 3.63 (s, H), 2.89-2.76 (m, 2H), 2.37-2.22 (m, 2H), 2.02-1.89 (m, 2H), 1.73-1.56 (m, 2H). LCMS (Method G): RT=3.30 min, M+H+=451.

reactant | 6-bromo-3-iodo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 1.3 mmol, 0.50 g | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)I | C10H5BrIN3
reactant | 4-methoxy-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine | 2.4 mmol, 0.80 g | COC1CCN(CC1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H30BNO3
solvent | sodium carbonate | 10 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 6-Bromo-3-[4-(4-methoxypiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.165 g, 28% | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCC(CC3)OC | C23H23BrN4O
